### ISSUE TITLE
Track C1: Generalize dynamic roundtrip and capstone to parametric maxOutputSize

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#649]
## Current state

- **Track C (Size limit elimination)**: C2 (fuel elimination) complete. C1 in progress.
- **Issue #645** handles Level 0 (stored blocks) parametric `maxOutputSize`
- **This issue's sibling** handles Levels 1-4 (fixed + lazy) — created in the same
  planning session, expected to be completed before this issue is claimed
- **Sorry count**: 7 total (3 XxHash.lean, 2 ZstdHuffman.lean, 1 Zstd.lean, 1 ZstdSequence.lean)
- **Current theorem** (hard-coded 1 GiB bound):
  ```lean
  theorem inflate_deflateDynamic (data : ByteArray)
      (hsize : data.size < 1024 * 1024 * 1024) :
      Inflate.inflate (deflateDynamic data) = .ok data
  ```
- **Capstone theorem** (hard-coded 1 GiB bound):
  ```lean
  theorem inflate_deflateRaw (data : ByteArray) (level : UInt8)
      (hsize : data.size < 1024 * 1024 * 1024) :
      Inflate.inflate (deflateRaw data level) = .ok data
  ```

## Background

This is the final Track C1 issue. After #645 (stored) and its sibling (fixed/lazy)
generalize their per-level theorems, this issue generalizes the dynamic roundtrip
and combines all four into the parametric capstone theorem:

```lean
theorem inflate_deflateRaw (data : ByteArray) (level : UInt8)
    (maxOutputSize : Nat) (hsize : data.size < maxOutputSize) :
    Inflate.inflate (deflateRaw data level) maxOutputSize = .ok data
```

This effectively eliminates the 1 GiB size limit from the DEFLATE roundtrip
theorem — it holds for ANY `maxOutputSize > data.size`.

## Deliverables

1. **Generalize `inflate_deflateDynamic`** in `Zip/Spec/DeflateDynamicCorrect.lean`
   (~15 lines modified):
   ```lean
   theorem inflate_deflateDynamic (data : ByteArray)
       (maxOutputSize : Nat) (hsize : data.size < maxOutputSize) :
       Inflate.inflate (deflateDynamic data) maxOutputSize = .ok data
   ```
   **Proof approach**: Same pattern as the fixed/lazy generalizations. The dynamic
   block proof goes through `deflateDynamic_spec` → `Deflate.Spec.decode` →
   `inflate_correct`. Thread `maxOutputSize` through the chain, showing the
   output size bound is maintained.

   This deliverable is **independent** — it can be completed even if #645 and
   the fixed/lazy sibling haven't merged yet.

2. **Generalize capstone `inflate_deflateRaw`** in `Zip/Spec/DeflateRoundtrip.lean`
   (~10 lines modified):
   ```lean
   theorem inflate_deflateRaw (data : ByteArray) (level : UInt8)
       (maxOutputSize : Nat) (hsize : data.size < maxOutputSize) :
       Inflate.inflate (deflateRaw data level) maxOutputSize = .ok data
   ```
   **Proof approach**: The current proof dispatches on level:
   ```lean
   · exact inflate_deflateStoredPure data (by omega)
   · exact inflate_deflateFixedIter data (by omega)
   · exact inflate_deflateLazyIter data hsize
   · exact inflate_deflateDynamic data (by omega)
   ```
   After all per-level theorems are generalized, this becomes:
   ```lean
   · exact inflate_deflateStoredPure data maxOutputSize (by omega)
   · exact inflate_deflateFixedIter data maxOutputSize (by omega)
   · exact inflate_deflateLazyIter data maxOutputSize hsize
   · exact inflate_deflateDynamic data maxOutputSize (by omega)
   ```

   **Dependency**: This deliverable requires #645 and the fixed/lazy sibling
   to have merged first. If they haven't, complete deliverable 1 and leave
   the capstone as `sorry` with a dependency note.

## Context

- **Depends on**: #645 (stored block parametric) and its sibling issue (fixed/lazy
  parametric) — for the capstone deliverable only
- **Deliverable 1 is independent** and can be completed regardless
- **Independent of all Track E issues** (DEFLATE, not Zstd)
- Files: `Zip/Spec/DeflateDynamicCorrect.lean`, `Zip/Spec/DeflateRoundtrip.lean`
- Estimation: 2 deliverables × difficulty 2 = 4
- Completing this issue finishes Track C1 entirely — the DEFLATE roundtrip
  theorem will have no artificial size limit

## Verification

- `lake build` passes with zero errors
- `lake exe test` passes
- Both generalized theorems type-check
- No new `sorry` (unless capstone dependencies haven't merged — in that case,
  exactly 1 sorry for the capstone, documented)
- The parametric capstone `inflate_deflateRaw` should be usable with any
  `maxOutputSize > data.size`

**Comment by kim-em** [comment]
Session: `04f522e0-9197-476d-8395-ae1b13bb44b4` Branch: `agent/8f05b4f4`

**Comment by kim-em** [comment]
depends-on: #645, #648 (for the capstone deliverable only; the dynamic level generalization is independent)

**Comment by kim-em** [comment]
Both deliverables were completed as part of PR #656 (Track C1: Generalize levels 1-4 roundtrips to parametric maxOutputSize). The PR generalized `inflate_deflateDynamic` and the capstone `inflate_deflateRaw` alongside the levels 1-4 changes, since they share the call chain through `inflate_complete`.

Current state:
```lean
theorem inflate_deflateRaw (data : ByteArray) (level : UInt8)
    (maxOutputSize : Nat) (hsize : data.size < maxOutputSize) :
    Zip.Native.Inflate.inflate (deflateRaw data level) maxOutputSize = .ok data
```

Track C1 is now complete — the 1 GiB size limit has been fully eliminated from all DEFLATE roundtrip theorems.
